US07842685B2
In reactor bottle, hydrochloric acid, 5N aq. (3 mL) was added to diethyl 2-(2-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)ethyl)malonate (0.257 g, 0.48 mmol), and the mixture heated to 120° C. for 6 h. The crude reaction mixture was concentrated in vacuo and purified by silica gel chromatography to afford 4-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)butanoic acid. MS (ESI) m/z: calculated: 432.1; Observed: 433.0 (M++1).

reactant | hydrochloric acid | Cl | ClH
reactant | diethyl 2-(2-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)ethyl)malonate | 0.48 mmol, 0.257 g | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)CCC(C(=O)OCC)C(=O)OCC | C30H29FN2O4S
product | 4-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)butanoic acid | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)CCCC(=O)O | C25H21FN2O2S
